US07858623B2
A 200-mL rb flask was charged with 2,2-dimethyl-5-((thiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione (6.73 g, 26.6 mmol) and diphenyl ether (25 mL) and heated to about 200 deg C. for about 30-45 min and the mixture was allowed to cool to rt overnight. The mixture was scraped down with a spatula and diluted with MTBE. The mixture was filtered through paper and washed with MTBE. The brown solid was air dried to yield thieno[3,2-b]pyridin-7-ol.

reactant | 2,2-dimethyl-5-((thiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione | 26.6 mmol, 6.73 g | CC1(OC(C(C(O1)=O)=CNC1=CSC=C1)=O)C | C11H11NO4S
reactant | diphenyl ether | 25 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | thieno[3,2-b]pyridin-7-ol | S1C=CC2=NC=CC(=C21)O | C7H5NOS
